US05030629
Preparation of 4-Decyl-2-trifluoromethyl-2-oxazoline
To a cooled solution of 10.2 g of 2-amino-1-dodecanol and 15 ml of triethylamine in 100 ml of dichloromethane was slowly added a solution of 7.1 ml of trifluoroacetic anhydride in 30 ml of dichloromethane. After 3 hours at room temperature the reaction mixture was poured into sodium bicarbonate solution and then extracted with ether. The organic phase was dried, concentrated and the residual oil was heated at 160°-180° C. for 12 hours. The dark oil was dissolved in hexane and was washed with sodium bicarbonate solution and water. The hexane phase was dried, concentrated and the residual oil was distilled at 100°-110° C. at 0.1 mm to give 10.4 g (73.6%) of a clear oil.

reactant | 2-amino-1-dodecanol | 10.2 g | NC(CO)CCCCCCCCCC | C12H27NO
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 7.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-Decyl-2-trifluoromethyl-2-oxazoline | 10.4 g, 73.6% | C(CCCCCCCCC)C1N=C(OC1)C(F)(F)F | C14H24F3NO
